// OTA_V3 slew: buffer step 0.35->0.95V
simulator lang=spectre
global 0
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

Vdd   (vdd   0)     vsource dc=1.8
Vstep (vinp  0)     vsource type=pulse val0=0.35 val1=0.95 delay=2e-08 \
    rise=1n fall=1n width=4e-07
Rfb   (out  vinn)   resistor r=1m

Vbt   (vbtail 0)    vsource dc=1.29
Vbnc  (vbnc  0)     vsource dc=0.9
Vbpc  (vbpc  0)     vsource dc=0.95
nodeset out=0.35 vinn=0.35 ntail=0.85 x1=0.45 x2=0.45 nA=0.25 nB=0.25 \
    nA2=1.45 nA3=1.55 nB3=1.55 gn=0.55 gp=1.45

// ---- stage 1: recycling folded cascode (d g s b) ----
// NOTE input assignment: stage 2 inverts, so the DRIVEN input (vinp) sits on
// the M2 side and FEEDBACK (vinn) on the M1 side to keep overall fb negative.
M0   (ntail vbtail vdd  vdd) pch_mac w=4.0u l=1.0u
M1A  (nA    vinn  ntail vdd) pch_mac w=1.5u l=1.0u
M1B  (x2    vinn  ntail vdd) pch_mac w=1.5u l=1.0u
M2A  (nB    vinp  ntail vdd) pch_mac w=1.5u l=1.0u
M2B  (x1    vinp  ntail vdd) pch_mac w=1.5u l=1.0u
MN1B (x1    x1    0     0)   nch_mac w=0.22u l=0.35u
MN1A (nA    x1    0     0)   nch_mac w=0.22u l=0.35u multi=3
MN2B (x2    x2    0     0)   nch_mac w=0.22u l=0.35u
MN2A (nB    x2    0     0)   nch_mac w=0.22u l=0.35u multi=3
M5   (nA2   vbnc  nA    0)   nch_mac w=1.0u l=0.5u
M6   (gn    vbnc  nB    0)   nch_mac w=1.0u l=0.5u
M7   (nA2   vbpc  nA3   vdd) pch_mac w=2.0u l=0.35u
M8   (gp    vbpc  nB3   vdd) pch_mac w=2.0u l=0.35u
M9   (nA3   nA2   vdd   vdd) pch_mac w=2.0u l=0.35u
M10  (nB3   nA2   vdd   vdd) pch_mac w=2.0u l=0.35u
// ---- class-AB level shift: gp = gn + vab (ideal Monticelli battery) ----
Vab  (gp    gn)   vsource dc=0.85
// ---- stage 2: push-pull common source ----
MN_O (out   gn    0     0)   nch_mac w=2.0u l=0.35u
MP_O (out   gp    vdd   vdd) pch_mac w=5.0u l=0.35u
// ---- compensation (ahuja) ----
Cc   (out   ncz)  capacitor c=0.11p
Rz   (ncz   nB)   resistor r=0.001k
CL   (out   0)    capacitor c=0.05p

save out vinp
tr tran stop=8.2e-07 errpreset=conservative maxstep=200p
