// OTA_V3 RFC + class-AB, AC stim=diff
simulator lang=spectre
global 0
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/mnt/hgfs/share_folder/tsmc18_HRI_1K_1.8V_5V_1.0fF_GA_GB_1P6M_4K_MIM_15K/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

Vdd   (vdd   0)     vsource dc=1.8 mag=0
Vcm   (vincm 0)     vsource dc=0.3 mag=0
Vbt   (vbtail 0)    vsource dc=1.29
Vbnc  (vbnc  0)     vsource dc=0.9
Vbpc  (vbpc  0)     vsource dc=0.95
Vinp  (vinp  vincm) vsource dc=0 mag=1

// open-loop AC bias: DC short (L) + level shift -> stage-1 out (gn) ~ VGS(MN_O)
Lfb  (out  nls)  inductor l=1T
Voff (nls  vinn) vsource dc=0.6
Cac  (vinn vincm) capacitor c=1T

nodeset out=0.9 nls=0.9 vinn=0.3 ntail=0.85 x1=0.45 x2=0.45 \
    nA=0.25 nB=0.25 nA2=1.45 nA3=1.55 nB3=1.55 gn=0.55 gp=1.25

// ---- stage 1: recycling folded cascode (d g s b) ----
// NOTE input assignment: stage 2 inverts, so the DRIVEN input (vinp) sits on
// the M2 side and FEEDBACK (vinn) on the M1 side to keep overall fb negative.
M0   (ntail vbtail vdd  vdd) pch_mac w=4.0u l=1.0u
M1A  (nA    vinn  ntail vdd) pch_mac w=1.5u l=1.0u
M1B  (x2    vinn  ntail vdd) pch_mac w=1.5u l=1.0u
M2A  (nB    vinp  ntail vdd) pch_mac w=1.5u l=1.0u
M2B  (x1    vinp  ntail vdd) pch_mac w=1.5u l=1.0u
MN1B (x1    x1    0     0)   nch_mac w=0.22u l=0.35u
MN1A (nA    x1    0     0)   nch_mac w=0.22u l=0.35u multi=3
MN2B (x2    x2    0     0)   nch_mac w=0.22u l=0.35u
MN2A (nB    x2    0     0)   nch_mac w=0.22u l=0.35u multi=3
M5   (nA2   vbnc  nA    0)   nch_mac w=1.0u l=0.5u
M6   (gn    vbnc  nB    0)   nch_mac w=1.0u l=0.5u
M7   (nA2   vbpc  nA3   vdd) pch_mac w=2.0u l=0.35u
M8   (gp    vbpc  nB3   vdd) pch_mac w=2.0u l=0.35u
M9   (nA3   nA2   vdd   vdd) pch_mac w=2.0u l=0.35u
M10  (nB3   nA2   vdd   vdd) pch_mac w=2.0u l=0.35u
// ---- class-AB level shift: gp = gn + vab (ideal Monticelli battery) ----
Vab  (gp    gn)   vsource dc=0.85
// ---- stage 2: push-pull common source ----
MN_O (out   gn    0     0)   nch_mac w=2.0u l=0.35u
MP_O (out   gp    vdd   vdd) pch_mac w=5.0u l=0.35u
// ---- compensation (ahuja) ----
Cc   (out   ncz)  capacitor c=0.15p
Rz   (ncz   nB)   resistor r=0.001k
CL   (out   0)    capacitor c=0.05p

save out gn gp
opInfo info what=oppoint where=rawfile
ac ac start=1 stop=1G dec=40
